US07307165B2
Synthesis of (E)-2-chloro-6-(1-propenyl)imidazo[1,2-b]pyridazin-3-ylsulfonamide
The reaction was carried out in the same manner as in Example 8 except that N′-(2-chloro-6-(1-propenyl)imidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine as a mixture of E and Z was used in place of N′-(2-chloro-6-cyclopropylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine. The resulting crystals were purified by silica gel column chromatography (chloroform:methanol=20:1) to give the title compound as white crystals. The yield was 70.1%.

reactant | N′-(2-chloro-6-(1-propenyl)imidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | ClC=1N=C2N(N=C(C=C2)C=CC)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C18H26ClN5O2S
reactant | N′-(2-chloro-6-cyclopropylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | ClC=1N=C2N(N=C(C=C2)C2CC2)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C18H26ClN5O2S
product | (E)-2-chloro-6-(1-propenyl)imidazo[1,2-b]pyridazin-3-ylsulfonamide | yield was 70.1% | ClC=1N=C2N(N=C(C=C2)\C=C\C)C1S(=O)(=O)N | C9H9ClN4O2S
